US07217723B2
Methyl-(2-pyridine-3-yl-ethyl)-amine
To a solution of benzyl-methyl-(2-pyridine-3-yl-ethyl-)amine (4.3 g) in methanol was added 10% palladium-carbon, and was stirred at 50° C. under hydrogen atmosphere for 1 hour. After filtrating with Celite, the filtrate was concentrated, and the title compound (2.39 g) was obtained as a colorless oily matter.

reactant | benzyl-methyl-(2-pyridine-3-yl-ethyl-)amine | 4.3 g | C(C1=CC=CC=C1)N(CCC=1C=NC=CC1)C | C15H18N2
solvent | methanol | CO | CH4O
catalyst | palladium-carbon | [C].[Pd]
product | Methyl-(2-pyridine-3-yl-ethyl)-amine | 2.39 g | CNCCC=1C=NC=CC1 | C8H12N2
